*
*  ZETEX  ZVN4424C Mosfet Spice Subcircuit   Last revision  3/5/00
*
.SUBCKT ZVN4424C 3 4 5
*                D G S
M1 3 2 5 5 N4424AM
RG 4 2 200
RL 3 5 240E6
C1 2 5 101E-12
C2 3 2 4E-12 
D1 5 3 N4424AD
*
.MODEL N4424AM NMOS VTO=1.25 RS=2.34 RD=1.634 IS=1E-15 KP=5.319
+CBD=66.2E-12 PB=1
.MODEL N4424AD D IS=5.516E-13 RS=.2084 N=1.0078
.ENDS ZVN4424C
*
*$
*
*                          (C)  1994 ZETEX PLC
*
*   The copyright in this model  and  the design embodied belong to
*   Zetex PLC ("Zetex"). It is supplied free of charge by Zetex for
*   the purpose  of research  and design  and may be used or copied
*   intact (including this notice) for that purpose only. All other
*   rights  are  reserved.  The model  is believed  accurate but no
*   condition or warranty as to its  merchantability or fitness for
*   purpose  is  given  and  no liability  in respect of any use is
*   accepted by Zetex PLC, its distributors or agents.
*
*
*   Zetex PLC, Fields New Road, Chadderton, Oldham  OL9 8NP
